US07612075B2
B. 4-(2-Phenoxyquinolin-6-ylmethyl)-3-oxopiperazine-1-carboxylic acid benzyl ester.
A mixture of phenol (15.1 g, 160 mmol) and 4-(2-chloroquinolin-6-ylmethyl)-3-oxopiperazine-1-carboxylic acid benzyl ester (6.60 g, 16.1 mmol) is melted together at 70° C. until a homogeneous mixture is obtained. Potassium hydroxide (3.15 g, 56.1 mmol) is added and the resulting mixture is heated overnight at 120° C. After 24 hours, the brown/black residue is cooled to room temperature, diluted with CH2Cl2 and stirred with 1N NaOH (100 mL) for 30 minutes. The two layers are separated and the aqueous layer is extracted with CH2Cl2. The combined organic layers are washed with 1N NaOH, saturated NaCl, dried over Na2SO4, filtered and concentrated. The crude title compound (6.92 g, 14.8 mmol) is obtained as a beige foam and used in the subsequent step without further purification. 1H NMR (CDCl3, 300 MHz) δ8.07 (d, 1H), 7.76 (d, 1H), 7.63 (s, 1H), 7.50 (dd, 1H), 7.42 (m, 2H), 7.34 (m, 6H), 7.25 (m, 2), 7.09 (d, 1H), 5.14 (s, 2), 4.75 (s, 2H), 4.27 (s, 2H), 3.66 (m, 2H), 3.30 (bs, 2H).

reactant | phenol | 160 mmol, 15.1 g | C1(=CC=CC=C1)O | C6H6O
reactant | 4-(2-chloroquinolin-6-ylmethyl)-3-oxopiperazine-1-carboxylic acid benzyl ester | 16.1 mmol, 6.60 g | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)CC=1C=C2C=CC(=NC2=CC1)Cl)=O | C22H20ClN3O3
reactant | Potassium hydroxide | 56.1 mmol, 3.15 g | [OH-].[K+]
reactant | NaOH | 1N, 100 mL | [OH-].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(2-Phenoxyquinolin-6-ylmethyl)-3-oxopiperazine-1-carboxylic acid benzyl ester | 14.8 mmol, 6.92 g | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)CC=1C=C2C=CC(=NC2=CC1)OC1=CC=CC=C1)=O | C28H25N3O4
